US06995144B2
2-(1-Benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanone
After dissolving 1.30 ml of oxalyl chloride in 30 ml of dichloromethane, the solution was cooled to −78° C., and a solution of 1.22 ml of dimethylsulfoxide in dichloromethane (5 ml) was added dropwise while stirring. The mixture was stirred for 3 minutes, and then a solution of 2-(1-benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanol in dichloromethane (10 ml) was added dropwise. After stirring for 30 minutes, 8.01 ml of triethylamine was added, the temperature was raised to room temperature and stirring was continued for 3 hours. Water was added to the reaction solution, and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (1.78 g, 47% yield, 2 steps).

reactant | oxalyl chloride | 1.30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1.22 ml | CS(=O)C | C2H6OS
reactant | 2-(1-benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanol | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=C(C=CC=C1)Cl | C20H24ClNO
reactant | triethylamine | 8.01 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-(1-Benzylpiperidin-4-yl)-1-(2-chlorophenyl)ethanone | 1.78 g, 47% yield | C(C1=CC=CC=C1)N1CCC(CC1)CC(=O)C1=C(C=CC=C1)Cl | C20H22ClNO
